US08791161B2
N-(2-{[(2-amino-1,3-thiazol-4-yl)methyl]thio}-5-chlorophenyl)-1-benzofuran-2-sulfonamide
A solution of tert-butyl{4-[({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}thio)methyl]-1,3-thiazol-2-yl}carbamate Compound 11 (62 mg, 0.11 mmol), TFA (0.2 ml) in CH2Cl2 (1 ml) was stirred overnight. The solvent was removed in vacuo and the crude product was purified by column chromatography on silica gel (50% ethyl acetate in hexane) to afford the title compound (45 mg, 88%).

reactant | tert-butyl{4-[({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}thio)methyl]-1,3-thiazol-2-yl}carbamate | C(C)(C)(C)OC(NC=1SC=C(N1)CSC1=C(C=C(C=C1)Cl)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2)=O | C23H22ClN3O5S3
reactant | TFA | 0.2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | N-(2-{[(2-amino-1,3-thiazol-4-yl)methyl]thio}-5-chlorophenyl)-1-benzofuran-2-sulfonamide | 45 mg, 88% | NC=1SC=C(N1)CSC1=C(C=C(C=C1)Cl)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2 | C18H14ClN3O3S3
